US06846832B2
a) 2-Fluoro-5-methoxy-benzoic Acid
Alternatively, a solution of 4-fluoroanisole (500 mg, 4.0 mmol) in THF (10 mL) was added to a cooled solution (−78° C.) of 2,2,6,6-tetramethylpiperidine (1.1 g, 7.9 mmol) and BuLi (5 mL, 1.6 M in hexanes, 7.9 mmol) in THF (10 mL) at a slow rate to maintain the temperature below −70° C. The mixture was maintained at this temperature for 12 h, and then dry CO2 gas was passed into the solution. The resulting mixture was allowed to warm up to 0° C. and then HCl (1 M, 10 mL) was added and the product was extracted with diethyl ether. The combined organic extracts were then dried over sodium sulfate, washed with water and brine, filtered and evaporated. The crude solid was then partioned between sodium hydroxide (1 M, 10 mL) and diethyl ether. The aqueous phase was then acidified with HCl (1 M) and the product extracted with diethyl ether. Evaporation afforded the title compound (268 mg, 40%) as a white solid. MS m/e=168.9 (M−H).

reactant | 4-fluoroanisole | 4.0 mmol, 500 mg | FC1=CC=C(C=C1)OC | C7H7FO
reactant | 2,2,6,6-tetramethylpiperidine | 7.9 mmol, 1.1 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | BuLi | 7.9 mmol, 1.6 M, 5 mL | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 1 M, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-5-methoxy-benzoic Acid | 268 mg, 40% | FC1=C(C(=O)O)C=C(C=C1)OC | C8H7FO3
